US07700657B2
(h) tert-Butyl-[3-((E)-1-ethylbut-1-en-3-ynyl)phenoxy]-dimethylsilane
3.2 g (7.2 mmol) of tert-butyl-[3-((E)-4,4-dibromo-1-ethylbuta-1,3-dienyl)phenoxy]dimethylsilane are dissolved in 50 ml and the mixture is cooled to −78° C. 5.7 ml (14.4 mmol) of a 2.5 M solution of butyllithium are added and the medium is stirred for 2 hours, then it is treated with a saturated solution of ammonium chloride. The residue is purified by chromatography on a silica column. A yellow oil is obtained (m=1.0 g; Y=49%).

reactant | tert-butyl-[3-((E)-4,4-dibromo-1-ethylbuta-1,3-dienyl)phenoxy]dimethylsilane | 7.2 mmol, 3.2 g | C(C)(C)(C)[Si](C)(C)OC1=CC(=CC=C1)\C(=C\C=C(Br)Br)\CC | C18H26Br2OSi
reactant | butyllithium | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
product | tert-Butyl-[3-((E)-1-ethylbut-1-en-3-ynyl)phenoxy]-dimethylsilane | C(C)(C)(C)[Si](C)(C)OC1=CC(=CC=C1)\C(=C\C#C)\CC | C18H26OSi
